US07723391B2
Trans-3-(3-Methoxy-phenyl)-2,2-dimethyl-cyclopropanecarboxylic acid ethyl ester (15.22 g, 61 mmol) was added to a mixture of EtOH (200 mL) and 2M aqueous NaOH (100 mL). Solid NaOH (5.0 g, 125 mmol) was added, and the reaction mixture was stirred under N2 atmosphere for 15 hours at room temperature. The reaction mixture was diluted with water and extracted twice with a mixture of 1/1 hexanes/diethyl ether and once with EtOAc. The combined organic layers were dried (MgSO4), filtered, and concentrated under reduced pressure to give 11.5 g of trans-3-(3-methoxy-phenyl)-2,2-dimethyl-cyclopropanecarboxylic acid, MS=221 [M+H]+.

reactant | Trans-3-(3-Methoxy-phenyl)-2,2-dimethyl-cyclopropanecarboxylic acid ethyl ester | 61 mmol, 15.22 g | C(C)OC(=O)[C@@H]1C([C@H]1C1=CC(=CC=C1)OC)(C)C | C15H20O3
reactant | EtOH | 200 mL | CCO | C2H6O
reactant | NaOH | 2M, 100 mL | [OH-].[Na+]
reactant | NaOH | 125 mmol, 5.0 g | [OH-].[Na+]
solvent | water | O | H2O
product | trans-3-(3-methoxy-phenyl)-2,2-dimethyl-cyclopropanecarboxylic acid | 11.5 g | COC=1C=C(C=CC1)[C@@H]1C([C@H]1C(=O)O)(C)C | C13H16O3
